US04999378
To 4-hydroxy-α-methylcinnamic acid (55 g), absolute methanol (400 ml) and conc. sulfuric acid (10 ml) were added and refluxed for 12 hours. After the reaction mixture was allowed to cool, it was concentrated under reduced pressure. To the residue was added water (300 ml), and the mixture was neutralized with sodium hydrogen carbonate, and the resulting precipitate was collected by filtration, washed with water, and recrystallized from ethyl acetate/nhexane to give methyl 4-hydroxy-α-methylcinnamate (53 g). mp. 103°-104° C.

reactant | 4-hydroxy-α-methylcinnamic acid | 55 g | OC1=CC=C(C=C(C(=O)O)C)C=C1 | C10H10O3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 400 ml | CO | CH4O
product | methyl 4-hydroxy-α-methylcinnamate | 53 g | OC1=CC=C(C=C(C(=O)OC)C)C=C1 | C11H12O3
